US07786165B2
3-[2-fluoro-4-({4-[(2-methyl-3,4-dihydroquinolin-1(2H)-yl)methyl]-3-[(methylsulfonyl)oxy]benzyl}amino)phenyl]propanoic acid
To a solution of ethyl 3-[2-fluoro-4-({4-[(2-methyl-3,4-dihydroquinolin-1(2H)-yl)methyl]-3-[(methylsulfonyl)oxy]benzyl}amino)phenyl]propanoate (0.60 g, 1.07 mmol) in a mixture of methanol (3.0 mL) and tetrahydrofuran (6.0 mL) was added 1 N aqueous sodium hydroxide solution (2.14 mL, 2.14 mmol), and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with 10% aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative HPLC (gradient cycle A) to give a colorless oil. The obtained oil was dissolved in ethyl acetate, and the solution was neutralized with saturated aqueous sodium hydrogencarbonate solution, washed with saturated brine and dried to give the title compound (0.25 g, yield 56%) as a colorless oil.

reactant | ethyl 3-[2-fluoro-4-({4-[(2-methyl-3,4-dihydroquinolin-1(2H)-yl)methyl]-3-[(methylsulfonyl)oxy]benzyl}amino)phenyl]propanoate | 1.07 mmol, 0.60 g | FC1=C(C=CC(=C1)NCC1=CC(=C(C=C1)CN1C(CCC2=CC=CC=C12)C)OS(=O)(=O)C)CCC(=O)OCC | C30H35FN2O5S
reactant | sodium hydroxide | 2.14 mmol, 1 N, 2.14 mL | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-fluoro-4-({4-[(2-methyl-3,4-dihydroquinolin-1(2H)-yl)methyl]-3-[(methylsulfonyl)oxy]benzyl}amino)phenyl]propanoic acid | 0.25 g, yield 56% | FC1=C(C=CC(=C1)NCC1=CC(=C(C=C1)CN1C(CCC2=CC=CC=C12)C)OS(=O)(=O)C)CCC(=O)O | C28H31FN2O5S
